US08865698B2
(R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-2-hydroxy-2-methylpropanamide
To a mixture of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 25 mg, 0.079 mmol), 2-hydroxy-2-methylpropanoic acid (10 mg, 0.095 mmol), and HATU (36 mg, 0.095 mmol) was added 0.6 mL acetonitrile to make a solution. After cooling in an ice bath for 10 minutes, DIEA (0.041 mL, 0.24 mmol) was added to the reaction drop-wise. The reaction was allowed to warm up to ambient temperature and stirred overnight. The reaction mixture was concentrated, re-dissolved in methanol, and purified by reverse-phase column chromatography, eluting with 5 to 55% acetonitrile/water to yield the final product as an off-white solid (21 mg, 66% yield). MS (apci) m/z=402.2 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.079 mmol, 25 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | 2-hydroxy-2-methylpropanoic acid | 0.095 mmol, 10 mg | OC(C(=O)O)(C)C | C4H8O3
reactant | HATU | 0.095 mmol, 36 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.24 mmol, 0.041 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 0.6 mL | C(C)#N | C2H3N
product | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-2-hydroxy-2-methylpropanamide | 21 mg, 66% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(C(C)(C)O)=O | C20H21F2N5O2
